US06951864B2
4-[2-(6-Fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-6-methoxy-5-propyl-pyrimidine
A solution of 6-chloro-4-[2-(6-fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-5-propyl-pyrimidine (0.23 mmol), sodium methoxide (0.46 mmol) in methanol (5 mL) is stirred at ROOM TEMPERATURE under N2 overnight. Acetic acid (0.23 mmol) is added, followed by water/acetic acetate work-up. On drying, the solvent is removed in vacuo. Preparative TLC separation gives the title compound. LC-MS (M+1) 328.2 (retention time: 1.01 min).

reactant | 6-chloro-4-[2-(6-fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-5-propyl-pyrimidine | 0.23 mmol | ClC1=C(C(=NC=N1)CN1C(=NC=C1)C1=NC(=CC=C1)F)CCC | C16H15ClFN5
reactant | sodium methoxide | 0.46 mmol | C[O-].[Na+]
reactant | Acetic acid | 0.23 mmol | C(C)(=O)O | C2H4O2
solvent | methanol | 5 mL | CO | CH4O
product | 4-[2-(6-Fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-6-methoxy-5-propyl-pyrimidine | FC1=CC=CC(=N1)C=1N(C=CN1)CC1=NC=NC(=C1CCC)OC | C17H18FN5O
